US05530053
Preparation of 1-(1-ethylpropylamino) anthraquinone (EPAQ)
A Parr stainless steel high pressure reactor was charged with 1-chloroanthraquinone (24.3 g), 1-ethylpropylamine (17.5 g), potassium acetate (14.0 g), activated copper metal (0.7 g), and water (0.05 g). The reaction vessel was sealed and heated to a temperature of 180° C. in an oil bath for 12 hours. The oil bath was removed and the vessel was allowed to return to ambient conditions. The solid was extracted with methylene chloride and the insoluble materials removed by filtration. The solvent was removed and the solid recrystallized from hot methanol. The material was chromatographed on a silica gel column using toluene as the eluent.

reactant | 1-chloroanthraquinone | 24.3 g | ClC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H7ClO2
reactant | 1-ethylpropylamine | 17.5 g | C(C)C(CC)N | C5H13N
reactant | potassium acetate | 14.0 g | C(C)(=O)[O-].[K+]
catalyst | copper | 0.7 g | [Cu] | Cu
solvent | water | 0.05 g | O | H2O
product | 1-(1-ethylpropylamino) anthraquinone | C(C)C(CC)NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C19H19NO2
